* C:\Users\Vicente\Desktop\UC\Semestre 11\Proyectos\ICD\Digital\Components\TestFIR_RACX.asc
V1 Xold_0 0 PULSE(0.0 3.3 5n 1p 1p 50n 100n 1)
V2 Xold_1 0 PULSE(0.0 3.3 5n 1p 1p 50n 100n 1)
V3 Xold_2 0 PULSE(0.0 3.3 5n 1p 1p 50n 100n 1)
V4 Xold_3 0 PULSE(0.0 3.3 5n 1p 1p 50n 100n 1)
V5 Xold_4 0 PULSE(0.0 3.3 5n 1p 1p 50n 100n 1)
V6 Xold_5 0 PULSE(3.3 0.0 5n 1p 1p 50n 100n 1)
V7 Xnew_0 0 {Xnew_0}
V8 Xnew_1 0 {Xnew_1}
V9 Xnew_2 0 {Xnew_2}
V10 Xnew_3 0 {Xnew_3}
V11 Xnew_4 0 {Xnew_4}
V12 Xnew_5 0 {Xnew_5}
V13 Vdd 0 3.3
XX1 ck phi0_0 Vdd NC_01 NC_02 dff
XX3 ck phi0_2 Vdd NC_03 NC_04 dff
XX4 ck phi0_1 Vdd NC_05 NC_06 dff
XX5 ck phi0_3 Vdd NC_07 NC_08 dff
XX6 ck phi1_0 Vdd NC_09 NC_10 dff
XX7 ck phi1_2 Vdd NC_11 NC_12 dff
XX8 ck phi1_1 Vdd NC_13 NC_14 dff
XX9 ck phi1_3 Vdd NC_15 NC_16 dff
XX10 ck phi2_0 Vdd NC_17 NC_18 dff
XX11 ck phi2_2 Vdd NC_19 NC_20 dff
XX12 ck phi2_1 Vdd NC_21 NC_22 dff
XX13 ck phi2_3 Vdd NC_23 NC_24 dff
XX14 ck phi3_0 Vdd NC_25 NC_26 dff
XX15 ck phi3_2 Vdd NC_27 NC_28 dff
XX16 ck phi3_1 Vdd NC_29 NC_30 dff
XX17 ck phi3_3 Vdd NC_31 NC_32 dff
V14 ck 0 PULSE(0 3.3 1n 1p 1p 5n 20n)
XX2 Vdd Xnew_0 Xnew_1 Xnew_2 Xnew_3 Xnew_4 Xnew_5 Xold_0 Xold_1 Xold_2 Xold_3 Xold_4 Xold_5 phi0_0 phi0_1 phi0_2 phi0_3 phi0_4 phi0_5 phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 phi1_5 phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 phi3_5 fir_cla

* block symbol definitions
.subckt dff CK D Vdd Q Q_BAR
XX5 D Vdd N001 0 invx1
XX1 CK_BAR NC_01 NC_02 CK N002 tgate
XX2 N002 Vdd N003 0 invx1
XX3 N003 Vdd N005 0 invx1
XX4 CK NC_03 NC_04 CK_BAR N002 tgate
XX6 CK NC_05 NC_06 CK_BAR N004 tgate
XX7 N004 Vdd Q_BAR 0 invx1
XX8 Q_BAR Vdd N006 0 invx1
XX9 CK_BAR NC_07 NC_08 CK N004 tgate
XX10 Q_BAR Vdd Q 0 invx1
XX11 CK Vdd CK_BAR 0 invx1
.ends dff

.subckt fir_cla Vdd Xnew_0 Xnew_1 Xnew_2 Xnew_3 Xnew_4 Xnew_5 Xold_0 Xold_1 Xold_2 Xold_3 Xold_4 Xold_5 phi0_0 phi0_1 phi0_2 phi0_3 phi0_4 phi0_5 phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 phi1_5 phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 phi3_5
V1 phi0_0 Xold_0 0
V2 phi0_1 Xold_1 0
V3 phi0_2 Xold_2 0
V4 phi0_3 Xold_3 0
V5 phi0_4 Xold_4 0
V6 phi0_5 Xold_5 0
XX1 Xold_0 Xold_1 Xold_2 Xold_3 Xold_4 Xold_5 0 0 Xnew_0 Xnew_1 Xnew_2 Xnew_3 Xnew_4 Xnew_5 0 0 Vdd Vdd NC_01 S1_0 phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 S1_7 cla-8bit
XX2 S1_0 phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 S1_7 0 Xold_0 Xold_1 Xold_2 Xold_3 Xold_4 Xold_5 0 Vdd Vdd NC_02 S2_0 S2_1 phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 phi1_5 cla-8bit
XX3 S1_0 phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 S1_7 0 Xnew_0 Xnew_1 Xnew_2 Xnew_3 Xnew_4 Xnew_5 0 Vdd Vdd NC_03 S3_0 S3_1 phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 phi3_5 cla-8bit
.ends fir_cla

.subckt invx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends invx1

.subckt tgate A A_bar IN Vdd OUT
M1 IN A OUT 0 nmos_3p3 l='L' w='Wn' m='M'
M2 OUT A_bar IN Vdd pmos_3p3 l='L' w='Wp' m='M'
.param L=0.28u Wn=1u Wp=2u M=1
.ends tgate

.subckt cla-8bit A_0 A_1 A_2 A_3 A_4 A_5 A_6 A_7 B_0 B_1 B_2 B_3 B_4 B_5 B_6 B_7 Cin Vdd Cout S0 S1 S2 S3 S4 S5 S6 S7
XX1 A_0 A_1 A_2 A_3 B_0 B_1 B_2 B_3 Cin Vdd 0 N001 S0 S1 S2 S3 cla-4bit
XX2 A_4 A_5 A_6 A_7 B_4 B_5 B_6 B_7 N001 Vdd 0 Cout S4 S5 S6 S7 cla-4bit
.ends cla-8bit

.subckt cla-4bit A_0 A_1 A_2 A_3 B_0 B_1 B_2 B_3 Cin Vdd Vee Co_3 S0 S1 S2 S3
XX32 N002 Vdd N003 Vee invx1
XX33 N006 Vdd Co_0 Vee invx1
XX34 N004 Vdd N005 Vee invx1
XX35 N013 Vdd N014 Vee invx1
XX36 N010 Vdd N011 Vee invx1
XX37 N009 Vdd S2 Vee invx1
XX38 N001 Vdd S3 Vee invx1
XX39 N015 Vdd S1 Vee invx1
XX40 N019 Vdd S0 Vee invx1
XX41 P_0 Cin Vdd N002 Vee nand2x1
XX42 P_2 G_1 Vdd N004 Vee nand2x1
XX43 P_3 G_2 Vdd N013 Vee nand2x1
XX44 P_1 G_0 Vdd N010 Vee nand2x1
XX45 N003 G_0 Vdd Vee N006 nor2x1
XX46 P_0 Cin Vdd Vee N019 xnor2x1
XX47 P_1 Co_0 Vdd Vee N015 xnor2x1
XX48 P_2 Co_1 Vdd Vee N009 xnor2x1
XX49 P_3 Co_2 Vdd Vee N001 xnor2x1
XX5 N014 N016 N017 N018 G_3 Vdd Vee Co_3 5-nor
XX6 N005 N007 N008 G_2 Vdd Vee Co_2 4-nor
XX7 N011 N012 G_1 Vdd Vee Co_1 3-nor
XX8 P_0 P_1 Cin Vdd Vee N012 3-nand
XX9 P_1 P_2 G_0 Vdd Vee N007 3-nand
XX10 P_2 P_3 G_1 Vdd Vee N016 3-nand
XX11 P_0 P_1 P_2 Cin Vdd Vee N008 4-nand
XX12 P_1 P_2 P_3 G_0 Vdd Vee N017 4-nand
XX13 P_0 P_1 P_2 P_3 Cin Vdd Vee N018 5-nand
XX1 A_0 B_0 Vdd Vee G_0 P_0 pg
XX2 A_1 B_1 Vdd Vee G_1 P_1 pg
XX3 A_2 B_2 Vdd Vee G_2 P_2 pg
XX4 A_3 B_3 Vdd Vee G_3 P_3 pg
.ends cla-4bit

.subckt nand2x1 A B Vdd X Vee
M1 N001 B Vee Vee nmos_3p3 l={L} w={Wn}
M3 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B X Vdd pmos_3p3 l={L} w={Wp}
M2 X A N001 Vee nmos_3p3 l={L} w={Wn}
.param Wp=3u Wn=2u L=0.28u
.ends nand2x1

.subckt nor2x1 A B Vdd Vee X
M1 X B Vee Vee nmos_3p3 l={L} w={Wn}
M3 N001 A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B N001 Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param Wp=6u Wn=1u L=0.28u
.ends nor2x1

.subckt xnor2x1 A B Vdd Vee X
M1 X B A Vee nmos_3p3 l={L} w={Wn }
M3 A N001 X Vdd pmos_3p3 l={L} w={Wp}
XX1 B Vdd N001 Vee invx1
XX2 A Vdd N002 Vee invx1
M2 X N001 N002 Vee nmos_3p3 l={L} w={Wn}
M4 N002 B X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends xnor2x1

.subckt 5-nor A B C D E Vdd Vee X
XX3 N001 E Vdd Vee N002 nor2x1
XX4 N002 Vdd X Vee invx1
XX1 A B C D Vdd Vee N001 4-nor
.ends 5-nor

.subckt 4-nor A B C D Vdd Vee X
XX5 N001 Vdd N002 Vee invx1
XX8 N003 Vdd X Vee invx1
XX9 N005 Vdd N004 Vee invx1
XX10 A B Vdd Vee N001 nor2x1
XX11 C D Vdd Vee N005 nor2x1
XX12 N002 N004 Vdd Vee N003 nor2x1
.ends 4-nor

.subckt 3-nor A B C Vdd Vee X
XX1 A B Vdd Vee N001 nor2x1
XX3 N002 C Vdd Vee N003 nor2x1
XX5 N001 Vdd N002 Vee invx1
XX8 N003 Vdd X Vee invx1
.ends 3-nor

.subckt 3-nand A B C Vdd Vee X
XX3 N003 Vdd X Vee invx1
XX4 N001 Vdd N002 Vee invx1
XX7 A B Vdd N001 Vee nand2x1
XX8 N002 C Vdd N003 Vee nand2x1
.ends 3-nand

.subckt 4-nand A B C D Vdd Vee X
XX7 A B Vdd N001 Vee nand2x1
XX8 C D Vdd N005 Vee nand2x1
XX9 N002 N004 Vdd N003 Vee nand2x1
XX10 N001 Vdd N002 Vee invx1
XX11 N005 Vdd N004 Vee invx1
XX12 N003 Vdd X Vee invx1
.ends 4-nand

.subckt 5-nand A B C D E Vdd Vee X
XX1 N001 E Vdd N002 Vee nand2x1
XX2 N002 Vdd X Vee invx1
XX3 A B C D Vdd Vee N001 4-nand
.ends 5-nand

.subckt pg A B Vdd Vee G P
XX5 A B Vdd Vee N001 xnor2x1
XX6 A B Vdd N002 Vee nand2x1
XX7 N002 Vdd G Vee invx1
XX8 N001 Vdd P Vee invx1
.ends pg

.model NMOS NMOS
.model PMOS PMOS
.lib "C:\Users\Vicente\AppData\Local\LTspice\lib\cmp\standard.mos"
.param Xnew_0=0 Xnew_1=0 Xnew_2=0 Xnew_3=0 Xnew_4=0 Xnew_5=3.3
.tran 0 10n 0 10p
.inc "C:\Users\Vicente\Desktop\UC\Semestre 11\Proyectos\ICD\gf180\cmos_tt.txt"
* Scenario A: x_old 011111->100000, x_new 100000. phi1: 31->32, phi1_5 rises.
* Scenario B: x_old 000000->000001, x_new 111101. phi1: 15->16, phi1_4 rises.
* Scenario C: x_old 111110->111111, x_new 000001. phi1: 47->48, phi1_4 rises.
* Scenario D: x_old 100000->011111, x_new 100000. phi1: 32->31, phi1_5 falls.
.measure tran tdelay TRIG V(xold_5) VAL=1.65 FALL=1 TARG V(phi1_5) VAL=1.65 FALL=1
.backanno
.end