* C:\Users\Amteo\Desktop\ICD\Digital\Components\CLA\Tests\5bit_CLAs_Test_DFFtweaked.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vdd 0 {Vdd}
V2 Clk 0 PULSE(0 {Vdd} {tt} {trf} {trf} {tt} {2*tt})
X§X3 A_0_3 A_1_3 A_2_3 A_3_3 A_4_3 Vdd 0 0 0 0 Vdd 0 Co3 S_0_3 S_1_3 S_2_3 S_3_3 S_4_3 pseudo-CLA-5bit-NoCin
X§X1 A_0_2 A_1_2 A_2_2 A_3_2 A_4_2 Vdd 0 0 0 0 Vdd 0 Co2 S_0_2 S_1_2 S_2_2 S_3_2 S_4_2 pseudo-CLA-5bit-NoCin
X§X2 Clk S_0_2 Vdd A_0_2 NC_01 DFF
X§X4 Clk S_1_2 Vdd A_1_2 NC_02 DFF
X§X5 Clk S_2_2 Vdd A_2_2 NC_03 DFF
X§X6 Clk S_3_2 Vdd A_3_2 NC_04 DFF
X§X7 Clk S_4_2 Vdd A_4_2 NC_05 DFF
X§X8 Clk S_0_3 Vdd A_0_3 NC_06 DFF_tweaked
X§X9 Clk S_1_3 Vdd A_1_3 NC_07 DFF_tweaked
X§X10 Clk S_2_3 Vdd A_2_3 NC_08 DFF_tweaked
X§X11 Clk S_3_3 Vdd A_3_3 NC_09 DFF_tweaked
X§X12 Clk S_4_3 Vdd A_4_3 NC_10 DFF_tweaked

* block symbol definitions
.subckt pseudo-CLA-5bit-NoCin A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Vdd Vee Co_4 S0 S1 S2 S3 S4
X§X34 N013 Vdd N014 Vee INVx1
X§X35 N007 Vdd N008 Vee INVx1
X§X36 N005 Vdd N006 Vee INVx1
X§X37 N002 Vdd S2 Vee INVx1
X§X38 N003 Vdd S3 Vee INVx1
X§X39 N001 Vdd S1 Vee INVx1
X§X42 P_2 G_1 Vdd N013 Vee NAND2x1
X§X43 P_3 G_2 Vdd N007 Vee NAND2x1
X§X44 P_1 Co_0 Vdd N005 Vee NAND2x1
X§X47 P_1 Co_0 Vdd Vee N001 XNOR2x1
X§X48 P_2 Co_1 Vdd Vee N002 XNOR2x1
X§X49 P_3 Co_2 Vdd Vee N003 XNOR2x1
X§X1 A_0 B_0 Vdd Vee Co_0 P_0 PG
X§X2 A_1 B_1 Vdd Vee G_1 P_1 PG
X§X3 A_2 B_2 Vdd Vee G_2 P_2 PG
X§X4 A_3 B_3 Vdd Vee G_3 P_3 PG
X§X14 A_4 B_4 Vdd Vee G_4 P_4 PG
X§X15 N004 Vdd S4 Vee INVx1
X§X16 P_4 Co_3 Vdd Vee N004 XNOR2x1
X§X17 N017 Vdd N018 Vee INVx1
X§X18 P_4 G_3 Vdd N017 Vee NAND2x1
X§X25 P_1 P_2 Co_0 Vdd Vee N015 3-NAND
X§X26 P_2 P_3 G_1 Vdd Vee N010 3-NAND
X§X27 P_3 P_4 G_2 Vdd Vee N019 3-NAND
X§X29 P_1 P_2 P_3 Co_0 Vdd Vee N012 4-NAND
X§X30 P_2 P_3 P_4 G_1 Vdd Vee N020 4-NAND
X§X50 P_1 P_2 P_3 P_4 Co_0 Vdd Vee N022 5-NAND
X§X5 N006 G_1 Vdd Vee N009 pseudoNOR-2
X§X7 N008 N010 N012 G_3 Vdd Vee N011 pseudoNOR-4
X§X8 N018 N019 N020 N022 G_4 Vdd Vee N021 pseudoNOR-5
X§X10 N009 Vdd Co_1 Vee INVx1
X§X11 N011 Vdd Co_3 Vee INVx1
X§X12 N021 Vdd Co_4 Vee INVx1
X§X13 N016 Vdd Co_2 Vee INVx1
X§X6 N014 N015 G_2 Vdd Vee N016 pseudoNOR-3
V1 S0 P_0 0
.param a=0.7
.ends pseudo-CLA-5bit-NoCin

.subckt DFF CK D Vdd Q Q_BAR
X§X5 D Vdd N001 0 INVx1
X§X2 N002 Vdd N003 0 INVx1
X§X3 N003 Vdd N005 0 INVx1
X§X4 CK CK_BAR N005 Vdd N002 TGATE params: L=0.28u Wn=1u Wp=3u M=1
X§X6 CK CK_BAR N003 Vdd N004 TGATE params: L=0.28u Wn=1u Wp=3u M=1
X§X7 N004 Vdd Q_BAR 0 INVx1
X§X8 Q_BAR Vdd N006 0 INVx1
X§X9 CK_BAR CK N006 Vdd N004 TGATE params: L=0.28u Wn=1u Wp=3u M=1
X§X10 Q_BAR Vdd Q 0 INVx1
X§X11 CK Vdd CK_BAR 0 INVx1
X§X1 CK_BAR CK N001 Vdd N002 TGATE params: L=0.28u Wn=1u Wp=3u M=1
.ends DFF

.subckt DFF_tweaked CK D Vdd Q Q_BAR
X§X5 D Vdd N001 0 INVx1
X§X2 N002 Vdd N003 0 INVx1
X§X3 N003 Vdd N005 0 INVx1
X§X4 CK CK_BAR N005 Vdd N002 TGATE params: .param L=0.28u Wn={1u/2} Wp={3u/2} M=1
X§X6 CK CK_BAR N003 Vdd N004 TGATE params: .param L=0.28u Wn={1u/2} Wp={3u/2} M=1
X§X7 N004 Vdd Q_BAR 0 INVx1
X§X8 Q_BAR Vdd N006 0 INVx1
X§X9 CK_BAR CK N006 Vdd N004 TGATE params: .param L=0.28u Wn={1u/2} Wp={3u/2} M=1
X§X10 Q_BAR Vdd Q 0 INVx1
X§X11 CK Vdd CK_BAR 0 INVx1
X§X1 CK_BAR CK N001 Vdd N002 TGATE params: .param L=0.28u Wn={1u/2} Wp={3u/2} M=1
.ends DFF_tweaked

.subckt INVx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends INVx1

.subckt NAND2x1 A B Vdd X Vee
M1 N001 B Vee Vee nmos_3p3 l={L} w={Wn}
M3 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B X Vdd pmos_3p3 l={L} w={Wp}
M2 X A N001 Vee nmos_3p3 l={L} w={Wn}
.param Wp=3u Wn=2u L=0.28u
.ends NAND2x1

.subckt XNOR2x1 A B Vdd Vee X
M1 X B A Vee nmos_3p3 l={L} w={Wn }
M3 A N001 X Vdd pmos_3p3 l={L} w={Wp}
X§X1 B Vdd N001 Vee INVx1
X§X2 A Vdd N002 Vee INVx1
M2 X N001 N002 Vee nmos_3p3 l={L} w={Wn}
M4 N002 B X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends XNOR2x1

.subckt PG A B Vdd Vee G P
X§X5 A B Vdd Vee N001 XNOR2x1
X§X6 A B Vdd N002 Vee NAND2x1
X§X7 N002 Vdd G Vee INVx1
X§X8 N001 Vdd P Vee INVx1
.ends PG

.subckt 3-NAND A B C Vdd Vee X
X§X3 N003 Vdd X Vee INVx1
X§X4 N001 Vdd N002 Vee INVx1
X§X7 A B Vdd N001 Vee NAND2x1
X§X8 N002 C Vdd N003 Vee NAND2x1
.ends 3-NAND

.subckt 4-NAND A B C D Vdd Vee X
X§X7 A B Vdd N001 Vee NAND2x1
X§X8 C D Vdd N005 Vee NAND2x1
X§X9 N002 N004 Vdd N003 Vee NAND2x1
X§X10 N001 Vdd N002 Vee INVx1
X§X11 N005 Vdd N004 Vee INVx1
X§X12 N003 Vdd X Vee INVx1
.ends 4-NAND

.subckt 5-NAND A B C D E Vdd Vee X
X§X1 N001 E Vdd N002 Vee NAND2x1
X§X2 N002 Vdd X Vee INVx1
.ends 5-NAND

.subckt pseudoNOR-2 A B Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-2

.subckt pseudoNOR-4 A B C D Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-4

.subckt pseudoNOR-5 A B C D E Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
M6 X E Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-5

.subckt pseudoNOR-3 A B C Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-3

.subckt TGATE A A_bar IN Vdd OUT
M1 IN A OUT 0 nmos_3p3 l='L' w='Wn' m='M'
M2 OUT A_bar IN Vdd pmos_3p3 l='L' w='Wp' m='M'
.param L=0.28u Wn=1u Wp=3u M=1
.ends TGATE

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Amteo\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ..\..\..\..\gf180\cmos_tt.txt
.param Vdd=3.3 a=0.9
.tran {63*tt}
* V(S_0_1)+2*V(S_1_1)+4*V(S_2_1)+8*V(S_3_1)+16*V(S_4_1)\nV(S_0_2)+2*V(S_1_2)+4*V(S_2_2)+8*V(S_3_2)+16*V(S_4_2)\nV(S_0_3)+2*V(S_1_3)+4*V(S_2_3)+8*V(S_3_3)+16*V(S_4_3)\n \nV(A_0_1)+2*V(A_1_1)+4*V(A_2_1)+8*V(A_3_1)+16*V(A_4_1)\nV(A_0_2)+2*V(A_1_2)+4*V(A_2_2)+8*V(A_3_2)+16*V(A_4_2)\nV(A_0_3)+2*V(A_1_3)+4*V(A_2_3)+8*V(A_3_3)+16*V(A_4_3)
.param trf={tt/10000}
* pseudo CLA 5-bit No Cin DFF tweaked
;.step param a 0.6 1 0.1
.param tt 0.55n
* pseudo CLA 5-bit No Cin DFF normal
.backanno
.end
