* C:\Users\Vicente\Desktop\UC\Semestre 11\Proyectos\ICD\Digital\Schematics\CLA_Test.asc
V1 Vdd 0 {Vdd}
V2 Clk 0 PULSE(0 {Vdd} 20u 50n 50n 10u 20u)
XX2 N002 Vdd N003 Vee invx1
XX3 N006 Vdd Co_0 Vee invx1
XX4 N004 Vdd N005 Vee invx1
XX5 N013 Vdd N014 Vee invx1
XX6 N010 Vdd N011 Vee invx1
XX7 N009 Vdd S2 Vee invx1
XX8 N001 Vdd S3 Vee invx1
XX9 N015 Vdd S1 Vee invx1
XX10 N019 Vdd S0 Vee invx1
XX11 P_0 Cin Vdd N002 Vee nand2x1
XX12 P_2 G_1 Vdd N004 Vee nand2x1
XX13 P_3 G_2 Vdd N013 Vee nand2x1
XX14 P_1 G_0 Vdd N010 Vee nand2x1
XX15 N003 G_0 Vdd Vee N006 nor2x1
XX16 P_0 Cin Vdd Vee N019 xnor2x1
XX17 P_1 Co_0 Vdd Vee N015 xnor2x1
XX18 P_2 Co_1 Vdd Vee N009 xnor2x1
XX19 P_3 Co_2 Vdd Vee N001 xnor2x1
XX20 N014 N016 N017 N018 G_3 Vdd Vee Co_3 5-nor
XX21 N005 N007 N008 G_2 Vdd Vee Co_2 4-nor
XX22 N011 N012 G_1 Vdd Vee Co_1 3-nor
XX23 P_0 P_1 Cin Vdd Vee N012 3-nand
XX24 P_1 P_2 G_0 Vdd Vee N007 3-nand
XX25 P_2 P_3 G_1 Vdd Vee N016 3-nand
XX26 P_0 P_1 P_2 Cin Vdd Vee N008 4-nand
XX27 P_1 P_2 P_3 G_0 Vdd Vee N017 4-nand
XX28 P_0 P_1 P_2 P_3 Cin Vdd Vee N018 5-nand
XX29 A_0 B_0 Vdd Vee G_0 P_0 pg
XX30 A_1 B_1 Vdd Vee G_1 P_1 pg
XX31 A_2 B_2 Vdd Vee G_2 P_2 pg
XX32 A_3 B_3 Vdd Vee G_3 P_3 pg
V3 A_0 0 0
V4 A_1 0 0
V5 A_2 0 0
V6 A_3 0 0
V7 B_0 0 0
V8 B_1 0 0
V9 B_2 0 0
V10 B_3 0 3.3
V11 Cin 0 0
V12 Vee 0 0

* block symbol definitions
.subckt invx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends invx1

.subckt nand2x1 A B Vdd X Vee
M1 N001 B Vee Vee nmos_3p3 l={L} w={Wn}
M3 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B X Vdd pmos_3p3 l={L} w={Wp}
M2 X A N001 Vee nmos_3p3 l={L} w={Wn}
.param Wp=3u Wn=2u L=0.28u
.ends nand2x1

.subckt nor2x1 A B Vdd Vee X
M1 X B Vee Vee nmos_3p3 l={L} w={Wn}
M3 N001 A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B N001 Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param Wp=6u Wn=1u L=0.28u
.ends nor2x1

.subckt xnor2x1 A B Vdd Vee X
M1 X B A Vee nmos_3p3 l={L} w={Wn }
M3 A N001 X Vdd pmos_3p3 l={L} w={Wp}
XX1 B Vdd N001 Vee invx1
XX2 A Vdd N002 Vee invx1
M2 X N001 N002 Vee nmos_3p3 l={L} w={Wn}
M4 N002 B X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends xnor2x1

.subckt 5-nor A B C D E Vdd Vee X
XX3 N001 E Vdd Vee N002 nor2x1
XX4 N002 Vdd X Vee invx1
XX1 A B C D Vdd Vee N001 4-nor
.ends 5-nor

.subckt 4-nor A B C D Vdd Vee X
XX5 N001 Vdd N002 Vee invx1
XX8 N003 Vdd X Vee invx1
XX9 N005 Vdd N004 Vee invx1
XX10 A B Vdd Vee N001 nor2x1
XX11 C D Vdd Vee N005 nor2x1
XX12 N002 N004 Vdd Vee N003 nor2x1
.ends 4-nor

.subckt 3-nor A B C Vdd Vee X
XX1 A B Vdd Vee N001 nor2x1
XX3 N002 C Vdd Vee N003 nor2x1
XX5 N001 Vdd N002 Vee invx1
XX8 N003 Vdd X Vee invx1
.ends 3-nor

.subckt 3-nand A B C Vdd Vee X
XX3 N003 Vdd X Vee invx1
XX4 N001 Vdd N002 Vee invx1
XX7 A B Vdd N001 Vee nand2x1
XX8 N002 C Vdd N003 Vee nand2x1
.ends 3-nand

.subckt 4-nand A B C D Vdd Vee X
XX7 A B Vdd N001 Vee nand2x1
XX8 C D Vdd N005 Vee nand2x1
XX9 N002 N004 Vdd N003 Vee nand2x1
XX10 N001 Vdd N002 Vee invx1
XX11 N005 Vdd N004 Vee invx1
XX12 N003 Vdd X Vee invx1
.ends 4-nand

.subckt 5-nand A B C D E Vdd Vee X
XX1 N001 E Vdd N002 Vee nand2x1
XX2 N002 Vdd X Vee invx1
XX3 A B C D Vdd Vee N001 4-nand
.ends 5-nand

.subckt pg A B Vdd Vee G P
XX5 A B Vdd Vee N001 xnor2x1
XX6 A B Vdd N002 Vee nand2x1
XX7 N002 Vdd G Vee invx1
XX8 N001 Vdd P Vee invx1
.ends pg

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vicente\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ..\..\gf180\cmos_tt.txt
.param Vdd=3.3
* Co_1
* Co_2
* Co_3
* Co_0
.tran 0 15n 0 10p
.backanno
.end
